US07728012B2
29.1 4-[4-(1H-Pyrazol-3-yl)phenyl]morpholine
A mixture of 2.05 g of 4-morpholinoacetophenone (10 mmol) and N,N-dimethylformamide dimethyl acetal was heated under reflux for 7 hours. The mixture was then mixed with 30 ml of methanol and, after addition of 0.57 ml of hydrazine hydrate, again heated under reflux for about 6 hours. The solid formed on cooling the mixture was filtered off with suction and thoroughly washed with methanol, resulting in 3.8 g of the title compound.

reactant | 4-morpholinoacetophenone | 10 mmol, 2.05 g | CC(=O)C1=CC=C(C=C1)N2CCOCC2 | C12H15NO2
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
reactant | hydrazine hydrate | 0.57 ml | O.NN
solvent | methanol | 30 ml | CO | CH4O
product | 4-[4-(1H-Pyrazol-3-yl)phenyl]morpholine | 3.8 g | N1N=C(C=C1)C1=CC=C(C=C1)N1CCOCC1 | C13H15N3O
